US04952397
3-Chloro-4-sulfomethylpyridine
A suspension of sodium sulfite (75.90 g, 0.602 mol) in a solution of water (240 ml) and ethanol (60 ml) was treated at ambient temperature with solid 3-chloro-3-chloromethylpyridine hydrochloride (59.77g, 0.301 mol). The resulting mixture was heated in an oil bath to reflux.

reactant | sodium sulfite | 0.602 mol, 75.90 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 240 ml | O | H2O
reactant | 3-chloro-3-chloromethylpyridine hydrochloride | 0.301 mol, 59.77g | Cl.ClC1(CN=CC=C1)CCl
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | 3-Chloro-4-sulfomethylpyridine | ClC=1C=NC=CC1CS(=O)(=O)O | C6H6ClNO3S
